US07323475B2
{[4-Hydroxy-1-(naphthalen-2-ylsulfanyl)-isoquinoline-3-carbonyl]-amino}-acetic acid
The title compound was prepared from [(1-chloro-4-hydroxy-isoquinoline-3-carbonyl)-amino]-acetic acid (U.S. Pat. No. 6,093,730) and 2-napthalenethiol under conditions analogous to Example D-110. The final product was purified by triturating the crude product twice with methanol and twice with dichloromethane; MS (+) m/z 405.08 (M+1).

reactant | [(1-chloro-4-hydroxy-isoquinoline-3-carbonyl)-amino]-acetic acid | ClC1=NC(=C(C2=CC=CC=C12)O)C(=O)NCC(=O)O | C12H9ClN2O4
reactant | 2-napthalenethiol | C1=C(C=CC2=CC=CC=C12)S | C10H8S
product | {[4-Hydroxy-1-(naphthalen-2-ylsulfanyl)-isoquinoline-3-carbonyl]-amino}-acetic acid | OC1=C(N=C(C2=CC=CC=C12)SC1=CC2=CC=CC=C2C=C1)C(=O)NCC(=O)O | C22H16N2O4S
